US08580762B2
Benzyl 3-(3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)propanoate
To a mixture of benzyl 3-(3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)amino)cyclobutyl)propanoate (3.76 g, 7.2 mmol) and NaBH3CN (5.9 g, 93.6 mmol) in MeOH (40 mL) was added AcOH to adjust to pH=6. Then, 37% HCHO (8.7 mL, 122.4 mmol) was added and the mixture was stirred at 30° C. for 1.5 h. Water (15 mL) was added and the mixture was concentrated in vacuo. Then, the mixture was extracted with DCM (30 mL×3). The combined organic phase was washed with brine, dried over Na2SO4, filtered and concentrated. The crude was purified by SGC (DCM: MeOH-100:1-20:1) to obtain the target (2.4 g, yield: 67%) as a white solid. 1H NMR (500 MHz, MeOD): δH 8.27 (s, 1H), 8.22 (d, J=2.5 Hz, 1H), 7.35-7.30 (m, 5H), 6.22 (s, 1H), 5.55-5.52 (m, 1H), 5.09 (s, 2H), 5.04-5.01 (m, 1H), 4.40-4.38 (m, 1H), 2.76-2.65 (m, 3H), 2.29-2.22 (m, 2H), 2.18 (s, 3H), 2.11-1.95 (m, 2H), 1.78-1.71 (m, 2H), 1.64-1.61 (m, 2H), 1.59 (s, 3H), 1.41-1.39 (m, 1H), 1.38 (s, 3H) ppm; ESI-MS (m/z): 537.3 [M+1]+.

reactant | benzyl 3-(3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)amino)cyclobutyl)propanoate | 7.2 mmol, 3.76 g | NC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CNC2CC(C2)CCC(=O)OCC2=CC=CC=C2 | C27H34N6O5
reactant | NaBH3CN | 93.6 mmol, 5.9 g | [BH3-]C#N.[Na+]
reactant | AcOH | CC(=O)O | C2H4O2
reactant | HCHO | 122.4 mmol, 8.7 mL | C=O | CH2O
solvent | MeOH | 40 mL | CO | CH4O
solvent | Water | 15 mL | O | H2O
product | Benzyl 3-(3-((((3aR,4R,6R,6aR)-6-(6-amino-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)(methyl)amino)cyclobutyl)propanoate | yield: 67% | NC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CN(C2CC(C2)CCC(=O)OCC2=CC=CC=C2)C | C28H36N6O5
